US05627205
2-{4-[2-(3,5-di-tert-butyl-4-hydroxyphenylthio)-1-oxoethyl]phenoxy}isobutyric acid
4.86 g (0.01 mol) of ethyl 2-{4-[1-oxo-2-(4-hydroxy-3,5-di-tert-butylphenylthio)ethyl]phenoxy}isobutyrate, 70 ml of ethanol and 12 ml of 1N sodium hydroxide solution are introduced into a round-bottomed flask equipped with a magnetic stirrer. The whole is heated under reflux for 1 hour 30 minutes, then cooled, neutralised with 12 ml of 1N hydrochloric acid solution and concentrated to dryness. The residue is taken up in ether. The whole is washed with water, dried over sodium sulphate and concentrated to dryness. The residue is chromatographed on 300 ml of Amicon silica (0.035-0.070 mm) while eluting first with pure dichloromethane and then with a mixture of dichloromethane and methanol (97:3).

reactant | ethyl 2-{4-[1-oxo-2-(4-hydroxy-3,5-di-tert-butylphenylthio)ethyl]phenoxy}isobutyrate | 0.01 mol, 4.86 g | O=C(CSC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C28H38O5S
reactant | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 12 ml | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-{4-[2-(3,5-di-tert-butyl-4-hydroxyphenylthio)-1-oxoethyl]phenoxy}isobutyric acid | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCC(=O)C1=CC=C(OC(C(=O)O)(C)C)C=C1 | C26H34O5S
